US07816558B2
[4-(Benzyloxy)-3-cyanophenyl]boric acid and methyl 2-chloroisonicotinate were dissolved in a mixture liquid of toluene and an aqueous 2 M sodium carbonate solution, and in the presence of tetrakis(triphenylphosphine)palladium, the mixture was stirred under heating in an argon atmosphere at 10° C. to obtain methyl 2-[4-(benzyloxy)-3-cyanophenyl]isonicotinate. F: 345.

reactant | [4-(Benzyloxy)-3-cyanophenyl]boric acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OB(O)O)C#N | C14H12BNO4
reactant | methyl 2-chloroisonicotinate | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-[4-(benzyloxy)-3-cyanophenyl]isonicotinate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C=C(C(=O)OC)C=CN1)C#N | C21H16N2O3
